US07846956B2
5.13 g of 2-ethylthio-1-methylimidazole-5-carbaldehyde was dissolved in 30 ml of ethanol, and 2.00 g of malononitrile was then added. The mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 2.51 g of [(2-ethylthio-1-methylimidazol-3-yl)methylidene]malononitrile.

reactant | 2-ethylthio-1-methylimidazole-5-carbaldehyde | 5.13 g | C(C)SC=1N(C(=CN1)C=O)C | C7H10N2OS
reactant | malononitrile | 2.00 g | C(CC#N)#N | C3H2N2
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | [(2-ethylthio-1-methylimidazol-3-yl)methylidene]malononitrile | 2.51 g | C(C)SC1N(C=CN1C=C(C#N)C#N)C | C10H12N4S
